US08455475B2
6-Bromo-3,3-dimethyl-2,3-dihydro-1H-inden-1-one
Bromine (0.2 ml, 3.8 mmol, 1.2 eq.) was added to a mixture of AlCl3 (1.04 g, 7.8 mmol, 2.5 eq.) and 3,3-dimethyl-indan-1-one (500 mg, 3.1 mmol) at 100° C. and the reaction mixture was heated at same temperature for 40-45 min. TLC (10% ethyl acetate/hexanes) showed the major product formation with little starting material and dibromo product. The reaction mass was quenched with crushed ice and extracted with ethyl acetate (3×50 ml). The organic part was separated, dried over Na2SO4 and evaporated under reduced pressure. The crude compound was purified by column chromatography (silica gel, 10% ethyl acetate/hexanes) to give the desired compound as a pale yellow solid. Yield: 27% (280 mg, 0.85 mmol).

reactant | Bromine | 3.8 mmol, 0.2 ml, 1.2 eq. | BrBr | Br2
reactant | AlCl3 | 7.8 mmol, 1.04 g, 2.5 eq. | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 3,3-dimethyl-indan-1-one | 3.1 mmol, 500 mg | CC1(CC(C2=CC=CC=C12)=O)C | C11H12O
product | 6-Bromo-3,3-dimethyl-2,3-dihydro-1H-inden-1-one | Yield: 27% | BrC1=CC=C2C(CC(C2=C1)=O)(C)C | C11H11BrO
